US04343804
Ethyl 8-Methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylate Hydrochloride
To a solution of 5.31 g (19.98 mmoles) of ethyl 4-chloro-8-methoxy-3-quinolinecarboxylate dissolved in 40 ml of tetrahydrofuran was added 2.15 g (20.06 mmoles) of o-toluidine dissolved in 40 ml of tetrahydrofuran. The solution was stirred with exclusion of moisture at 60° C. for 18 hours. The yellow solid precipitate was filtered and washed with isopropyl ether; yield 7.13 g (95.7%). The product was recrystallized three times from methylene chloride: ethyl acetate, m.p. 191°-193.5° C.

reactant | ethyl 4-chloro-8-methoxy-3-quinolinecarboxylate | 19.98 mmoles, 5.31 g | ClC1=C(C=NC2=C(C=CC=C12)OC)C(=O)OCC | C13H12ClNO3
reactant | o-toluidine | 20.06 mmoles, 2.15 g | NC=1C(=CC=CC1)C | C7H9N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Ethyl 8-Methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylate Hydrochloride | Cl.COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)NC1=C(C=CC=C1)C | InChI=1S/C20H20N2O3.ClH/c1-4-25-20(23)15-12-21-19-14(9-7-11-17(19)24-3)18(15)22-16-10-6-5-8-13(16)2;/h5-12H,4H2,1-3H3,(H,21,22);1H
